US07906677B2
The solution of N-(2′-chloro-6′-methylphenyl)-4-methylaniline (1.4 g) in 2.21 g chloroacetylchloride is heated to 90° C. for 4 h. The mixture is diluted with toluene (25 ml), cooled to room temperature and washed with aqu. sodium carbonate. The organic phase is dried, evaporated and the residue is subjected to flash chromatography [57 g silica, toluene and toluene/ethylacetate (98:2)] to afford 1.45 g of N-(2′-Chloro-6′-methylphenyl)-N-chloroacetyl-4-methylaniline which is crystallised from heptane, mp: 113-114° C.

reactant | N-(2′-chloro-6′-methylphenyl)-4-methylaniline | 1.4 g | ClC1=C(C(=CC=C1)C)NC1=CC=C(C=C1)C | C14H14ClN
reactant | chloroacetylchloride | 2.21 g | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2′-Chloro-6′-methylphenyl)-N-chloroacetyl-4-methylaniline | 1.45 g | ClC1=C(C(=CC=C1)C)N(C1=CC=C(C=C1)C)C(CCl)=O | C16H15Cl2NO
